US07037925B2
e) 4-(3-Hydroxymethyl-2-methylanilino)-3-quinolinecarboxamide
A mixture of 3-Chloro-6,7-methylenedioxy-3-quinolinecarboxamide (106 mg, 0.42 mmol); 3-amino-2-methylbenzylalcohol (72 mg, 0.52 mmol) and acetic acid (100 μL) in DMF (2 ml) was heated at 100° C. for 6 h. After cooling, the mixture was diluted with water (20 ml) and washed twice with ethyl acetate. The aqueous phase was made alkaline with 1 M NaOH and the resulting precipitate was collected by filtration, washed with water and dried to give the title compound (113 mg, 75%).

reactant | 3-Chloro-6,7-methylenedioxy-3-quinolinecarboxamide | 0.42 mmol, 106 mg | ClC1(CN=C2C=C3C(=CC2=C1)OCO3)C(=O)N | C11H9ClN2O3
reactant | 3-amino-2-methylbenzylalcohol | 0.52 mmol, 72 mg | NC=1C(=C(CO)C=CC1)C | C8H11NO
reactant | acetic acid | 100 μL | C(C)(=O)O | C2H4O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | 20 ml | O | H2O
product | 4-(3-Hydroxymethyl-2-methylanilino)-3-quinolinecarboxamide | 113 mg, 75% | OCC=1C(=C(NC2=C(C=NC3=CC=CC=C23)C(=O)N)C=CC1)C | C18H17N3O2
